US06410795B1
Preparation of Benzoylstearoylmethane (SBM)
Xylenes (dry, 180 mL), sodium tert-pentoxide (17.9 g; 0.163 mol), and methyl stearate (41.5 g; 0.139 mol) were placed into a four-necked, round bottom, half-liter flask equipped with a stirrer, a thermometer, and a reflux condenser with a distillation valve. The mixture was heated to 120° C. and kept at that temperature under a blanket of nitrogen. Acetophenone (15.0 g; 0.125 mol) was added slowly over a period of 30 minutes by means of a syringe pump. After 42 minutes, the distillation valve was opened and the distillate was removed as the reaction proceeded. After 1:05 hours from the beginning of the addition of the ketone, the mixture was cooled down to room temperature. Aqueous sulfuric acid (16%) was added with stirring until the pH of the aqueous layer was acidic.

reactant | sodium tert-pentoxide | 0.163 mol, 17.9 g | CCC(C)(C)[O-].[Na+]
reactant | methyl stearate | 0.139 mol, 41.5 g | C(CCCCCCCCCCCCCCCCC)(=O)OC | C19H38O2
reactant | Acetophenone | 0.125 mol, 15.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | Benzoylstearoylmethane | C(C1=CC=CC=C1)(=O)CCCCCCCCCCCCCCCCCC(=O)C | C26H42O2
